US06967204B2
5-Isopropyl-1H-pyrazol-3-carboxylic acid (5 g, 32.5 mmol) was added portionwise to concentrated sulfuric acid (25 ml) at room temperature with stirring. The reaction mixture was then heated to 60° C. and concentrated nitric acid (70%, 6 ml, 90 mmol) was added dropwise, keeping the temperature at 60° C. The reaction was then stirred at 60° C. for 3 hours, cooled to room temperature and poured onto 50 ml of ice with stirring. After 15 minutes the white precipitate was isolated by filtration, washed with water and dried under reduced pressure to give 5-isopropyl-4-nitro-1H-pyrazol-3-carboxylic acid (5.2 g) as a white solid. 1H NMR (400 MHz, DMSO-D6): δ=13.86-13.93 (1H, brs), 13.50-13.80 (1H, brs), 3.39-3.52 (1H, m), 1.18-1.30 (6H, d) ppm. LRMS (electrospray): m/z [M−H]+ 198.

reactant | 5-Isopropyl-1H-pyrazol-3-carboxylic acid | 32.5 mmol, 5 g | C(C)(C)C1=CC(=NN1)C(=O)O | C7H10N2O2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 90 mmol, 6 ml | [N+](=O)(O)[O-] | HNO3
product | 5-isopropyl-4-nitro-1H-pyrazol-3-carboxylic acid | 5.2 g | C(C)(C)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C7H9N3O4
